US04362728
A mixture of 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-(2-aminoethylthio)pyrimidine (0.25 g.), acetonitrile (5 ml.) and dimethyl (cyanoimido)dithiocarbonate (0.12 g.) was left at room temperature for 24 hours and then evaporated to dryness. The residue was dissolved in a 33% w/v solution of methylamine in ethanol, and the solution left at room temperature for 24 hours and then evaporated to dryness. The residue was recrystallised from ethanol to give 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[2-(2-cyano-3-methylguanidino)-ethylthio]pyrimidine, m.p. 218°-221°.

reactant | 4-[2-(2,2,2-trifluoroethyl)-guanidino]-2-(2-aminoethylthio)pyrimidine | 0.25 g | FC(CN=C(NC1=NC(=NC=C1)SCCN)N)(F)F | C9H13F3N6S
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-[2-(2,2,2-trifluoroethyl)guanidino]-2-[2-(2-cyano-3-methylguanidino)-ethylthio]pyrimidine | FC(CN=C(NC1=NC(=NC=C1)SCCNC(=NC#N)NC)N)(F)F | C12H16F3N9S
